US05599829
2-Ethylsulfanyl-3-phenyl-3,5-dihydro-imidazol-4-one
A mixture of 2-(3-phenyl-thioureido)-acetamide (7.1 g), ethyl iodide (18.0 g), and ethanol (300 mL) was heated at reflux for 2 hours. The solvent was evaporated. The residue was dissolved in chloroform (300 mL) and water (300 mL). The organic phase was washed with water, dried over anhydrous MgSO4, then evaporated to dryness. The residue was crystallized from ethyl acetate/hexane to give the title compound (3.1 g), m.p. 79°-81° C. Anal. Calcd. for. C11H12N2O S: C, 59.97; H, 5.49; N, 12.72. Found: C, 59.67; H, 5.35; N, 12.70. Mass spectrum (El, M.+) m/z 220. 1H-NMR (DMSO-d6 ; 400 MHz) δ7.43-7.52 (m, 3H), 7.28-7.31 (m, 2H), 4.32 (s, 2H), 3.07 (q, 2H), and 1.27 ppm (t, 3H).

reactant | 2-(3-phenyl-thioureido)-acetamide | 7.1 g | C1(=CC=CC=C1)NC(NCC(=O)N)=S | C9H11N3OS
reactant | ethyl iodide | 18.0 g | C(C)I | C2H5I
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 2-Ethylsulfanyl-3-phenyl-3,5-dihydro-imidazol-4-one | 3.1 g | C(C)SC1=NCC(N1C1=CC=CC=C1)=O | C11H12N2OS
